US07825260B2
[(R)-1-Methyl-1-(3-oxo-1,5-dihydro-benzo[e][1,3,2]dioxaphosphepin-3-yloxymethyl)-3-(2-pentyl-benzoxazol-5-yl)-propyl]-carbamic acid tert-butyl ester
Under an atmosphere of argon a solution of [(R)-1-Hydroxymethyl-1-methyl-3-(2-pentyl-benzoxazol-5-yl)-propyl]-carbamic acid tert-butyl ester (151 mg, 0.387 mmol) and tetrazole (85 mg, 1.21 mmol) in dry THF (3 ml) was treated with N,N-diethyl-1,5-dihydro-2,4,3-benzo-dioxaphosphepin-3-amine (185 mg, 0.77 mmol) and stirred for 1 hours at RT. After cooling the reaction mixture to 0° C., aqueous hydrogen peroxide (0.4 ml of a 30 w/w % solution) was added and the reaction was allowed to stir for one hour at RT. The reaction mixture was distributed between a 10% aqueous Na2S2O3 solution and AcOEt. The organic layer was dried over MgSO4, concentrated in vacuum and purified over silica gel (eluent (DCM/methanol 30/1). The title compound was obtained as an colorless amorphous solid. 1H-NMR (DMSO-d6) δ: 7.52 (d, J=8.3 Hz; 1H), 7.50-7.40 (m; 5H), 7.15 (dd, J=8.3, 1.5 Hz; 1H), 6.8 (bs; 1H), 5.32-5.26/5.16-5.04 (m; 4H), 4.17/4.06 (AB-system, J=9.5, 4.5 Hz; 2H), 2.88 (t, J=7.5 Hz; 2H), 2.71-2.58 (m; 2H), 2.14-2.08 (m; 1H), 1.81-1.68 (m; 3H), 1.38 (s; 9H); 1.28 (s; 3H), 1.38-1.28 (m; 4H), 0.85 (m; 3H).

reactant | [(R)-1-Hydroxymethyl-1-methyl-3-(2-pentyl-benzoxazol-5-yl)-propyl]-carbamic acid tert-butyl ester | 0.387 mmol, 151 mg | C(C)(C)(C)OC(N[C@@](CCC=1C=CC2=C(N=C(O2)CCCCC)C1)(C)CO)=O | C22H34N2O4
reactant | tetrazole | 1.21 mmol, 85 mg | N1N=NN=C1 | CH2N4
reactant | N,N-diethyl-1,5-dihydro-2,4,3-benzo-dioxaphosphepin-3-amine | 0.77 mmol, 185 mg | C(C)N(P1OCC2=C(CO1)C=CC=C2)CC | C12H18NO2P
reactant | hydrogen peroxide | OO | H2O2
reactant | Na2S2O3 | [O-]S(=O)(=S)[O-].[Na+].[Na+]
solvent | THF | 3 ml | C1CCOC1 | C4H8O
solvent | AcOEt | CCOC(=O)C | C4H8O2
product | [(R)-1-Methyl-1-(3-oxo-1,5-dihydro-benzo[e][1,3,2]dioxaphosphepin-3-yloxymethyl)-3-(2-pentyl-benzoxazol-5-yl)-propyl]-carbamic acid tert-butyl ester | C(C)(C)(C)OC(N[C@](CCC=1C=CC2=C(N=C(O2)CCCCC)C1)(COP1(OCC2=C(CO1)C=CC=C2)=O)C)=O | C30H41N2O7P
